US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpiperazine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 1-phenylpiperazine (9.7 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.5 mg). Calcd for C21H21N3O2: 347.1634, found 347.1628.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 1-phenylpiperazine | 0.060 mmol, 9.7 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpiperazine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C21H21N3O2
